US08895545B2
b) 3-(7,7-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-N-methyl-N-[1-(R)-(3-methyl-benzofuran-2-yl)-ethyl]acrylamide
A suspension of (R)—N-methyl-N-[1-(3-methyl-benzofuran-2-yl)-ethyl]acrylamide (328 mg, 1.35 mmol), 3-bromo-7,7-dimethyl-6,7-dihydro-9H-5-oxa-1,9-diaza-benzocyclohepten-8-one (400 mg, 1.48 mmol), (o-tol)3P (1.32 mg, 0.43 mmol) and DIEA (0.3 mL, 1.6 mmol) in EtCN (10 mL) and DMF (5 mL) was deoxygenated with argon for 30 min. Pd(OAc)2 (50 mg, 0.22 mmol) was added, the mixture was deoxygenated again with argon for 20 min and the mixture was heated to reflux overnight. The mixture was cooled to room temperature and partitinned between EtOAc and water. The residue was suspended in Et2O and then sonicated to give a solid. The solid was collected by filtration. Purification by column chromatography (silica gel, 1:1 hexanes/EtOAc) and sonication in Et2O gave the title compound (150 mg, 26%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ10.13 (s, 1H), 8.27 (s, 1H), 8.0.1-7.89 (m, 1H), 7.58-7.50 (m, 3H), 7.32-7.18 (m, 3H), 6.19-5.99 (m, 1H), 4.07 (s, 2H), 3.04-2.79 (m, 3H), 248 (s, 3H), 1.64-1.54 (m, 3H), 1.19 (s, 6H); MS (ESI) m/e 434 (M+H)+.

reactant | (R)—N-methyl-N-[1-(3-methyl-benzofuran-2-yl)-ethyl]acrylamide | 1.35 mmol, 328 mg | CN(C(C=C)=O)[C@H](C)C=1OC2=C(C1C)C=CC=C2 | C15H17NO2
reactant | 3-bromo-7,7-dimethyl-6,7-dihydro-9H-5-oxa-1,9-diaza-benzocyclohepten-8-one | 1.48 mmol, 400 mg | BrC1=CC2=C(NC(C(CO2)(C)C)=O)N=C1 | C10H11BrN2O2
reactant | DIEA | 1.6 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtCN | 10 mL | C(C)C#N | C3H5N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.22 mmol, 50 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(7,7-dimethyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocyclohepten-3-yl)-N-methyl-N-[1-(R)-(3-methyl-benzofuran-2-yl)-ethyl]acrylamide | 150 mg, 26% | CC1(COC2=C(NC1=O)N=CC(=C2)C=CC(=O)N([C@H](C)C=2OC1=C(C2C)C=CC=C1)C)C | C25H27N3O4
